US08461162B2
A solution of 2-methyl-N-[(1E)-(6-methylpyridin-2-yl)methylene]propane-2-sulfinamide (0.33 g, 1.48 mmol) in THF (6 mL) was added to a dry flask containing TBAT (0.88 g, 1.63 mmol) and the solution was cooled to −78° C. under a nitrogen atmosphere. To this was added trimethyl(trifluoromethyl)silane (0.26 mL, 1.78 mmol) and the reaction was warmed to −20° C. for 2 hours. The reaction was quenched with ammonium chloride solution and partitioned between water and ethyl acetate. The organic layer was dried over sodium sulfate, filtered and evaporated in vacuo. Purification by flash chromatography (5-40% ethyl acetate/hexane) gave 2-methyl-N-[2,2,2-trifluoro-1-(6-methylpyridin-2-yl)ethyl]propane-2-sulfinamide. LC-MS EIMS: m/z 295.1 [M+H]+.

reactant | 2-methyl-N-[(1E)-(6-methylpyridin-2-yl)methylene]propane-2-sulfinamide | 1.48 mmol, 0.33 g | CC(C)(C)S(=O)/N=C/C1=NC(=CC=C1)C | C11H16N2OS
reactant | trimethyl(trifluoromethyl)silane | 1.78 mmol, 0.26 mL | C[Si](C(F)(F)F)(C)C | C4H9F3Si
solvent | THF | 6 mL | C1CCOC1 | C4H8O
catalyst | TBAT | 1.63 mmol, 0.88 g | CCCC[N+](CCCC)(CCCC)CCCC.C1=CC=C(C=C1)[Si-](C2=CC=CC=C2)(C3=CC=CC=C3)(F)F
product | 2-methyl-N-[2,2,2-trifluoro-1-(6-methylpyridin-2-yl)ethyl]propane-2-sulfinamide | CC(C)(C)S(=O)NC(C(F)(F)F)C1=NC(=CC=C1)C | C12H17F3N2OS
